US08492582B2
To a solution mixture of methyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-5-methoxy-4-phenylbenzoate (0.034 g) in methanol (2.5 mL) and ethyl acetate (2.5 mL), 10% palladium-carbon (6.8 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. Hexane and diisopropyl ether were added to the obtained residue, and the solid substance was collected by filtration to obtain 0.020 g of methyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-5-methoxy-4-phenylbenzoate as a yellow solid.

reactant | methyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-5-methoxy-4-phenylbenzoate | 0.034 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=C(C(=C2)C2=CC=CC=C2)OC)C=C(C=C1)N1CCCCC1 | C34H34N2O5
solvent | methanol | 2.5 mL | CO | CH4O
solvent | ethyl acetate | 2.5 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 6.8 mg | [C].[Pd]
product | methyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-5-methoxy-4-phenylbenzoate | 0.020 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=C(C(=C2)C2=CC=CC=C2)OC)C=C(C=C1)N1CCCCC1 | C27H28N2O5
